US05948785
To a mixture of chloroform (100 mL) and ethanol (200 mL) was added dropwise acetyl chloride (190 mL, 2.67 mol) under ice-cooling over 1 h. The resulting solution was stirred at oec for 30 min, whereafter a solution of 3-cyanopyridine (25.5 g, 245 mmol) in chloroform (300 mL) was added dropwise over 1.5 h. After stirring at room temperature for 17 h, precipitates were collected by filtration, washed with chloroform, and dried in vacuo to give 50.5 g (92%) of ethyl 3-pyridinecarboximidate dihydrochloride as colorless crystals.

reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | acetyl chloride | 2.67 mol, 190 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-cyanopyridine | 245 mmol, 25.5 g | C(#N)C=1C=NC=CC1 | C6H4N2
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-pyridinecarboximidate dihydrochloride | 50.5 g, 92% | Cl.Cl.N1=CC(=CC=C1)C(OCC)=N | InChI=1S/C8H10N2O.2ClH/c1-2-11-8(9)7-4-3-5-10-6-7;;/h3-6,9H,2H2,1H3;2*1H
